US06207693B1
To a solution of 2-(4-pyridyl)-1H-benzimidazole-4-carboxylic acid (155 mg) in dichloromethane (2 ml) was added oxalyl chloride (0.056 ml) and N,N-dimethylformamide (2 drops) and stirred at ambient temperature for 2 hours. The reaction mixture was concentrated in vacuo to give 2-(4-pyridyl)-1H-benzimidazole-4-carbonyl chloride. To a solution of 4-amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (76.8 mg) and triethylamine (65 mg) in dichloromethane (5 ml) was added 2-(4-pyridyl)-1H-benzimidazole-4-carbonyl chloride in dichloromethane (2 ml) under ice bath cooling and stirred at ambient temperature for 6 hours. After the reaction mixture was concentrated in vacuo, the residue was diluted with chloroform and saturated sodium hydrogen carbonate aqueous solution. The organic layer was separated and washed with brine. The solution was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel (Chromatorex, Fuji Silysia Chemical Ltd.) column chromatography (methanol:chloroform=1:49). To the purified product was added water and 1N hydrochloric acid (0.51 ml). The solution was lyophilized to give 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]-phenyl]-4-[2-(4-pyridyl)-1H-benzimidazol-4-yl]carbonylamino-benzamide trihydrochloride (120 mg).

reactant | 4-amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 76.8 mg | NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C27H38N4O4
reactant | triethylamine | 65 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(4-pyridyl)-1H-benzimidazole-4-carbonyl chloride | N1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)Cl | C13H8ClN3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]-phenyl]-4-[2-(4-pyridyl)-1H-benzimidazol-4-yl]carbonylamino-benzamide trihydrochloride | 120 mg | Cl.Cl.Cl.COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)C2=CC=NC=C2 | InChI=1S/C40H45N7O5.3ClH/c1-27-12-15-33(35(25-27)52-24-7-5-6-11-36(48)47-22-20-45(2)21-23-47)46(3)40(50)29-13-14-31(34(26-29)51-4)43-39(49)30-9-8-10-32-37(30)44-38(42-32)28-16-18-41-19-17-28;;;/h8-10,12-19,25-26H,5-7,11,20-24H2,1-4H3,(H,42,44)(H,43,49);3*1H
